US09416132B2
To a solution of 3-bromo-6-chloroimidazo[1,2-b]pyridazine (2 g, 8.6 mmol) and 3-(trifluoromethyl)phenylboronic acid (1.63 g, 8.6 mmol) in dioxane/H2O (100 mL, 4:1) was added K2CO3 (2.4 g, 17.2 mmol) and Pd(PPh3) 4 (0.497 g, 0.430 mmol), the mixture was stirred at 110° C. for 3 h. The solution was concentrated, partitioned in EtOAc/H2O. The aqueous layer was washed with EtOAc (50 mL) for 3 times. The collected organic layers were dried over Na2SO4, concentrated and purified by column chromatography to give compound 6-chloro-3-(3-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazine (0.22 g, 0.739 mmol, yield 9%) as a brown solid.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | 8.6 mmol, 2 g | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 3-(trifluoromethyl)phenylboronic acid | 8.6 mmol, 1.63 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 17.2 mmol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 100 mL | O1CCOCC1.O
product | 6-chloro-3-(3-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazine | 0.739 mmol, 0.22 g, yield 9% | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)C(F)(F)F | C13H7ClF3N3
